US08383631B2
3-amino-1-[{4-(2,4,6-trimethylbenzyl)piperazin-1-yl}propanoyl]-6-N-phenyl-4,5,6,7-tetrahydropyrazolo[3,4-c]pyridin-7-one (Compound 16)
A target compound (92.7 mg, 0.185 mmol, 35.3%) was yielded in the same manner as Example 1 by reacting 3-amino-5,6-dihydro-6-phenyl-1H-pyrazolo[3,4-c]pyridin-7(4H)-one (120 mg, 0.525 mmol) with potassium carbonate (108.7 mg, 0.787 mmol) and 3-chloro-1-{4-(2,4,6-trimethylbenzyl)piperazin-1-yl}propan-1-one (178.2 mg, 0.577 mmol).

reactant | 3-amino-5,6-dihydro-6-phenyl-1H-pyrazolo[3,4-c]pyridin-7(4H)-one | 0.525 mmol, 120 mg | NC1=NNC=2C(N(CCC21)C2=CC=CC=C2)=O | C12H12N4O
reactant | potassium carbonate | 0.787 mmol, 108.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-{4-(2,4,6-trimethylbenzyl)piperazin-1-yl}propan-1-one | 0.577 mmol, 178.2 mg | ClCCC(=O)N1CCN(CC1)CC1=C(C=C(C=C1C)C)C | C17H25ClN2O
product | 3-amino-1-[{4-(2,4,6-trimethylbenzyl)piperazin-1-yl}propanoyl]-6-N-phenyl-4,5,6,7-tetrahydropyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=CC=C2)=O)C(CCN2CCN(CC2)CC2=C(C=C(C=C2C)C)C)=O | C29H36N6O2
